US08426604B2
5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-[methyl-(3-pyrazol-1-yl-propyl)-amino]-thiazol-4-one was prepared from 5-[1-(4-chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-methylsulfanyl-thiazolidin-4-one and methyl-(3-pyrazol-1-yl-propyl)-amine following General Procedure B.

reactant | 5-[1-(4-chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-methylsulfanyl-thiazolidin-4-one | ClC1=CC(=C(CN2N=CC3=CC(=CC=C23)C=C2C(NC(S2)SC)=O)C=C1)C(F)(F)F | C20H15ClF3N3OS2
reactant | methyl-(3-pyrazol-1-yl-propyl)-amine | CNCCCN1N=CC=C1 | C7H13N3
product | 5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-[methyl-(3-pyrazol-1-yl-propyl)-amino]-thiazol-4-one | ClC1=CC(=C(CN2N=CC3=CC(=CC=C23)C=C2C(N=C(S2)N(CCCN2N=CC=C2)C)=O)C=C1)C(F)(F)F | C26H22ClF3N6OS
